datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(C2C3[CH:20](C4=CC=CC=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([C:10](=[C:11]=[N-:12])[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])C=C1>>C1=CC=C(C2C([CH:20](C3=CC=CC=C3)[C:10](C3=CC=CC=C3)([C:11]#[N:12])[S:61](C3=CC=CC=C3)(=[O:62])=[O:72])[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10,11=10,20;12=11,12;20,21=21"
"C[S+:61](C)[O-:10].[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>C[S+:61](C)[O:10][CH:20]1N2N=N[N:35]=[C:34]2[CH:33]=[CH:32][C:21]1=[N+:22]([O-])[O-:23] 10=20;20,21=21,22;22,23=23"
"C1C[N:12]2CC[N:10]=[C:11]2[S:62]C1.COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([N:10]2CC[N+:12]3=[C:11]2[S:62]CCC3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.CN(C)C1=CC=C([C:61]([CH:10]=[S:11](C)C)=[O:62])C=C1>>CN(C)C1=CC=C([C:61]([CH:10]([S+:11](C)C)[CH2:20]C2C(C3=CC=CC=C3)[Pd-2:21]2([P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)OC2=CC=CC=C2)[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)OC2=CC=CC=C2)=[O:62])C=C1 10,11=10,20;20,21=21"
"CC(C)[NH2:10].CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([NH2+:10]C(C)C)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C[Si:11](C)([H:10])[CH2:62][Ge:63](C)(C)C.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>C[Si+:11](C)[CH2:62][Ge:63](C)(C)C.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH:20]([H:10])[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.CCCC[Sn:11](CCCC)(CCCC)[H:10]>>C1CC[C:22]([O-:23])=[CH:21][CH:20]([H:10])C1.CCCC[Sn+:11](CCCC)CCCC 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.C1C[N:10]=[C:11]2[N:12](C1)CCC[S:62]2>>C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH:20]([N:10]3CCC[N+:12]4=[C:11]3[S:62]CCC4)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1 10,11=10,20;12=11,12"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.OCC[NH2:10]>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH2+:10]CCO)[C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"CCCC[Sn](CCCC)(CCCC)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>CCCC[Sn](CCCC)(CCCC)[C:13]1=[O+:14][CH:10]([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[N:16](C)[C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[N+:16](C)=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.Cl[C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1>>Cl[C:63]1=[CH:62][CH:61]=[N+:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](N3CCCC3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](N3CCCC3)[CH:45]=[CH:46]2)[CH:71]=[CH:72]1 10=20
C1=C[C:71]2=[C:72](C=C1)[N:62]=[N:61][N-:10]2.CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[N:61]=[N:62][C:72]3=[C:71]2C=CC=C3)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
